US07700775B2
5-Chlorosalicylic acid (17.3 g, 100 mmol) and three drops of concentrated sulfuric acid (98%) were added to a solution of acetic anhydride (14 g, 137 mmol) and glacial acetic acid (16.4 g, 274 mmol) with stirring. The reaction mixture was slowly heated to 70° C. and stirred for 2 hours. The reaction mixture was cooled to room temperature and was gradually added to ice water (500 mL) to precipitate the acetylated product. These solids were collected and washed with water. The two batches of product were combined and recrystallized in ethyl acetate. The pure crystals were collected via vacuum filtration to give 16.3 g of O-acetyl-5-chlorosalicylic acid (76 mmol, 76% yield).

reactant | 5-Chlorosalicylic acid | 100 mmol, 17.3 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | acetic anhydride | 137 mmol, 14 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 274 mmol, 16.4 g | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | three drops | S(O)(O)(=O)=O | H2O4S
product | O-acetyl-5-chlorosalicylic acid | 76 mmol, 16.3 g, 76% yield | C(C)(=O)OC(C=1C(O)=CC=C(C1)Cl)=O | C9H7ClO4
